Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
planned admission for chemotherapy 
 
Major Surgical or Invasive Procedure:
Port placement ___
 
History of Present Illness:
Mr. ___ is a ___ year-old gentleman with newly diagnosed AML, 
s/p 7+3 induction chemotherapy (completed ___ who reports 
as a direct admission today for port placement and initiation of 
HiDAC therapy. Patient had a complete remission following 7+3 
therapy with minimal complications (nausea, grade 2 mucositis, a 
petechial rash on the bilateral thighs, and increased fatigue). 
Has been well since discharge with any acute illnesses or 
hospitalizations.

On arrival to the floor, patient is stable and doing well. 
States he has had some facial dryness at home, but otherwise no 
complaints. Denies nausea, vomiting, diarrhea, or constipation. 
Has had a good appetite. Denies any fevers or chills. Denies any 
sore throat or cough. Vitals were stable and WNL.

 
Past Medical History:
None
 
Social History:
___
Family History:
No family history of cancer to the best of his recollection
 
Physical Exam:
 ADMISSION PHYSICAL EXAM:  
 VS: T 98.3 PO 124 / 74 HR 84 RR 18 O2 100% RA
 GENERAL: Pleasant, sitting up in bed comfortably in NAD  
 HEENT: Some skin dry skin and mild erythema on cheeks, neck 
supple with FROM, no tonsillar swelling or exudate
 CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  

 LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi  
 ABD: Normal bowel sounds, soft, nontender, nondistended, no 
hepatomegaly, no splenomegaly  
 EXT: Warm, well perfused, no lower extremity edema   
 NEURO: Alert, oriented, motor and sensory function grossly 
intact
 LYMPH: No supraclavicular, axillary,  posterior cervical
  nodes lymphadenopathy.  
 SKIN: Mild skin erythema on cheeks, otherwise WNL

DISCHARGE PHYSICAL EXAM:
 VS: 98.0 PO 104 / 64 73 18 98 R  RA
 GENERAL: Pleasant, sitting up in bed comfortably in NAD  
 HEENT: Some mild erythema on cheeks, no oral ulcers
 CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  

 LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
 ABD: Normal bowel sounds, soft, nontender, nondistended
 EXT: Warm, well perfused, no lower extremity edema   
 NEURO: Alert, oriented, motor and sensory function grossly
intact. Normal finger to nose, heal to shin, no truncal ataxia,
speech pattern
 SKIN: Mild skin erythema on cheeks, otherwise WNL
 
Pertinent Results:
ADMISSION LABS:
==========================
___ 09:23PM BLOOD WBC-7.1 RBC-3.32* Hgb-10.3* Hct-31.0* 
MCV-93 MCH-31.0 MCHC-33.2 RDW-16.9* RDWSD-56.5* Plt ___
___ 09:23PM BLOOD Neuts-63.5 ___ Monos-12.2 Eos-3.7 
Baso-0.8 Im ___ AbsNeut-4.51 AbsLymp-1.40 AbsMono-0.87* 
AbsEos-0.26 AbsBaso-0.06
___ 09:23PM BLOOD ___ PTT-29.0 ___
___ 09:23PM BLOOD Glucose-95 UreaN-11 Creat-0.7 Na-143 
K-3.6 Cl-102 HCO3-26 AnGap-15
___ 09:23PM BLOOD ALT-20 AST-14 LD(LDH)-135 AlkPhos-72 
TotBili-0.8
___ 09:23PM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.7 Mg-1.7 
UricAcd-6.2

MICRO:
==========================
None

IMAGING:
==========================
___ Port Placement:  
Successful placement of a double lumen chest power Port-a-cath 
via the right internal jugular venous approach. The tip of the 
catheter terminates in the right atrium. The catheter is ready 
for use. 

DISCHARGE LABS:
==========================
___ 05:23AM BLOOD WBC-4.6 RBC-3.23* Hgb-9.9* Hct-29.9* 
MCV-93 MCH-30.7 MCHC-33.1 RDW-16.1* RDWSD-54.6* Plt ___
___ 05:23AM BLOOD Neuts-95.6* Lymphs-3.2* Monos-0.6* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-4.43# AbsLymp-0.15* 
AbsMono-0.03* AbsEos-0.00* AbsBaso-0.01
___ 05:23AM BLOOD Glucose-138* UreaN-14 Creat-0.6 Na-139 
K-4.4 Cl-101 HCO3-25 AnGap-13
___ 05:23AM BLOOD ALT-41* AST-19 AlkPhos-66 TotBili-0.6
___ 05:23AM BLOOD Albumin-3.9 Calcium-8.9 Phos-4.0 Mg-1.___ man with newly diagnosed AML presented for planned port 
placement & HiDAC consolidation. He received the port without 
issues. He started HiDAC Day 1: ___, and had no acute 
complications. Cerebellar examinations remained normal. He 
received some docusate & senna for mild constipation, but 
otherwise had no acute inpatient issues. He was discharged home 
with stable vital signs and no home services needed. 

TRANSITIONAL ISSUES:
- Patient should follow up with his outpatient oncologist. They 
are working to schedule an appointment and will call you with 
the date and time of this appointment. 
- Patient was discharged with eye drops to take for 48 hours 
after completion of HIDAC
- Patient had some mild constipation in the hospital, so was 
given scripts for Docusate & Senna at discharge
- Pt also had some anxiety and nausea, which was treated with 
ativan 0.5mg PRN
- ANC at discharge: ___

CODE: Full
Proxy name: ___ 
Relationship: Ex-wife Phone: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO Q8H:PRN anxiety 
2. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth BID prn Disp 
#*30 Capsule Refills:*0 
2.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES TID 
Take for 2 days after you leave the hospital 
RX *prednisolone acetate 1 % 1 drop in each eye three times a 
day Refills:*0 
3.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 8.6 mg by mouth BID prn Disp #*30 
Tablet Refills:*0 
4.  LORazepam 0.5 mg PO Q8H:PRN anxiety 
RX *lorazepam [Ativan] 0.5 mg 1 tablet by mouth every eight (8) 
hours Disp #*21 Tablet Refills:*0 
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- AML

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you.

Why was I admitted to the hospital?
- You had a scheduled admission to receive consolidation therapy 
to treat your AML

What happened in the hospital?
- Your got your port
- Your received "HIDAC" chemotherapy

What do I need to do when I go home?
- Take all of your medicines as prescribed. This includes the 
new eye drops, which you should take for 2 more days 
- Go to all of your follow up appointments (listed below)
- Call Dr. ___ office if you have any fevers, chills, 
nausea, vomiting, vision changes, confusion, or anything 
worrisome to you

We wish you the best in the future!

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___